US07687534B2
Step A. 2-(4-Bromophenyl)-N-[(1R,2R)-2-hydroxy-1-methyl-2-phenylethyl]-N-methylacetamide
Pivaloyl chloride (7.8 ml, 63.3 mmol) was added dropwise to a DCM/THF solution (100 ml/20 ml) containing 4-bromophenylacetic acid (13.59 g, 63.2 mmol). DIEA (11.0 ml, 63.1 mmol) was then added dropwise (exotherm). After stirring at room temperature for 1 hour the solution was poured slowly into a DCM/THF solution (100 ml/20 ml) containing (1R,2R)-(−)-pseudoephedrine (10.5 g, 63.5 mmol) and DIEA (11.0 ml, 63.1 mmol). After stirring overnight at room temperature the solution was concentrated and the residue partitioned between EtOAc and water. The organic phase was washed with aqueous 1N NaOH (2×), aqueous 1N HCl (3×), brine and dried over MgSO4. The solution was filtered and concentrated. The oil residue was diluted with 100 ml of toluene and concentrated. The residue was then dissolved in ethyl ether and triturated with hexanes to give the title compound as a white solid. The compound is a 3:1 mixture of amide rotational isomers by proton NMR: 1H NMR (400 MHz, asterisk denotes minor rotamer, CDCl3): δ 7.42 (d, J=8.3 Hz, 2H); 7.39-7.27 (m, 5H); 7.11*(d, J=8.4 Hz, 2H); 7.04 (d, J=8.3 Hz, 2H); 4.64-4.42 (m, 1H); 4.07-3.94 (m, 1H); 3.82-3.70 (m, 1H); 2.94*(s, 3H); 3.63 (s, 2H); 2.82 (s, 3H); 1.12 (d, J=7.0 Hz, 3H); 0.86*(d, 3H, J=7.0 Hz). LC1 3.23 min. (M+H)=362

reactant | Pivaloyl chloride | 63.3 mmol, 7.8 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-bromophenylacetic acid | 63.2 mmol, 13.59 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | DIEA | 63.1 mmol, 11.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (1R,2R)-(−)-pseudoephedrine | 63.5 mmol, 10.5 g | C[C@H]([C@@H](C1=CC=CC=C1)O)NC | C10H15NO
reactant | DIEA | 63.1 mmol, 11.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM THF | 100 ml | C(Cl)Cl.C1CCOC1
solvent | DCM THF | 100 ml | C(Cl)Cl.C1CCOC1
product | 2-(4-Bromophenyl)-N-[(1R,2R)-2-hydroxy-1-methyl-2-phenylethyl]-N-methylacetamide | BrC1=CC=C(C=C1)CC(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C | C18H20BrNO2
